US08022062B2
Using a method similar to the General Procedure 5-3, couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.1 g, 2.5 mmol) with 2-fluoro-4-phenoxy-benzylamine (550 mg, 2.5 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) and then SCX chromatography to obtain 7-chloro-6-(2-fluoro-4-phenoxy-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine. MS (ES+) m/z: 493 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.5 mmol, 1.1 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 2-fluoro-4-phenoxy-benzylamine | 2.5 mmol, 550 mg | FC1=C(CN)C=CC(=C1)OC1=CC=CC=C1 | C13H12FNO
product | 7-chloro-6-(2-fluoro-4-phenoxy-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=C(C=C(C=C1)OC1=CC=CC=C1)F | C25H21ClF4N2O2
